US04500733
Sodium (0.15 g) was dissolved in 10 ml of absolute ethanol, and 2.29 g of ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate was added, while the reaction mixture was cooled with ice. After stirring at room temperature for 15 minutes, the mixture was rendered neutral with an ethereal solution of hydrogen chloride, while cooled with ice, and then the solvent was distilled off. The resulting residue was dissolved in diethyl ether, and the solution was washed with water, dried over anhydrous magnesium sulfate, and distilled to give an oily substance having a boiling point of 108°-112° C./0.6 mmHg. Purification by column chromatography (silica gel-benzene) gave 1.1 g (50% yield) of ethyl 1-acetyl-2-(2,2,2-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate.

reactant | Sodium | 0.15 g | [Na] | Na
reactant | ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate | 2.29 g | C(C)(=O)C(C(=O)OCC)C(C(CC(Cl)(Cl)Cl)Cl)(C)C | C12H18Cl4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 1-acetyl-2-(2,2,2-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate | 1.1 g, 50% yield | C(C)(=O)C1(C(C1(C)C)CC(Cl)(Cl)Cl)C(=O)OCC | C12H17Cl3O3
